Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left facial droop, left arm weakness
 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
The pt is a ___ year-old right-handed woman with a PMH of
possible CNS vasculitis vs. Susac's syndrome. She was referred
for admission after developing worsening symptoms in ___ of this
year. 

This history is obtained from the patient as well as prior notes
as she has difficulty recalling details of her history. It
appears that Ms. ___ first presented to Dr. ___ in ___. At
that time she had already had several years of episodes of
dizziness and gait difficulties. She was evaluated at that time
for possible CNS disease including stroke and vasculitis. 

Her work-up at that time included an MRI of the brain and cord.
The cord showed no intrinsic abnormalities but there was some
lumbar disc disease and vertebral body hemangioma's. Her MRI of
the brain showed significant ischemia of both the cerebellum and
BG with an old infarct on the R. Given that her symptoms were
progressive and her imaging was not clearly diagnostic but did
show significant small vessel disease, the diagnosis of
vasculitis or demyelination was entertained. She therefore
underwent an LP in ___ which showed a WBC of 18 with a
lymphocytic predominance and an elevated protein of 87.
Oligoclonal bands were negative. Subsequent LP's however have 
not
shown this pleocytosis in ___ and ___. 

Given her evidence of small vessel disease without other known
vascular risk factors, she was referred for brain biopsy in ___
for evaluation of possible vasculitis. This showed 
"periarterial,
meningeal, mononuclear infiltrate, hypertrophic endothelial
cells, and focal fibrinoid necrosis consistent with SMALL
ARTERY/ARTERIOLE VASCULITIS." She also had a hypercoagulability
work-up which was significant for a mild elevation in Protein C
(135, range is normal to 123). Her Lupus Anticoagulant and
Antithrombin III were negative. Serum ACE, RF, ___, 
Homocysteine,
Lyme and Protein S were all negative as well. RPR was last 
tested
in ___ and was negative. Of note, one of her prior labs from
___ revealed a low TSH of 0.16. Her B12 has been checked twice
and was normal. Review of her labs reveals mildly elevated ESR's
up to 40 (last checked in ___. 

Her course is otherwise remarkable for and admission for
confusion and nocturnal urinary incontinence in ___ after her
brain biopsy. At that time she also noted to have a left facial
droop and mild left hemiparesis which improved. She underwent an
EEG (which was normal) and was loaded with dilantin for concern
for seizures. It was during this admission that she was started
on cyclophosphamide 100mg Qday for CNV vasculitis. Review of her
other studies reveals that she also had a TTE with bubble study
in ___ which was normal. Of note, it seems in her prior records
that she has also had episodes L and R sided numbness and
weakness in the past as well. 

Ms. ___ seems to have been stable for a number of years after
starting the Cytoxan. She was tapered off dilantin and remained
seizure free. Her symptoms did not recur however in ___ she
developed anemia and her Cytoxan had to be discontinued. She was
then referred to Dr. ___ a second opinion. At that time,
the possibility of Susac's syndrome was raised but not clearly
diagnostic. It appears she was then referred to a
neuro-ophthalmologist, however results of this evaluation are 
not
available. 

After being off Cytoxan for a period of time, Ms. ___ developed
new symptoms and she was then restarted on Cytoxan. CellCept
1000mg bid was also considered as an alternative long term
treatment, however it does not appear that she was started on
this. Her last MRI in our system was in ___ and showed multiple
scattered foci o chronic microvascular disease but no new
lesions. 

She then transferred care to another neurologist, Dr. ___ discontinued ___ in ___. She remained symptom free 
until
___ of this year when she developed numbness of her L hand. 
She
then developed abrupt onset L facial drooping and L arm weakness
in ___. She was taken to an OSH where she was admitted for a day
and then discharged. She recalls having had an MRI however the
results of this evaluation and imaging are not available. Her
symptoms resolved the following day. She then returned to her
current neurologist, and then was referred to Dr. ___
further input. She was seen by Dr. ___ in clinic on the ___
and admission for evaluation of active vasculitis was
recommended. She therefore presented today for admission.

ROS:  per HPI
The pt denied headache, loss of vision, blurred vision, 
diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denied difficulties producing or
comprehending speech. Denied new focal weakness, numbness,
paraesthesia.  

 
Past Medical History:
- Cerebral vasculitis vs Susac's syndrome? 
- cataract surgery
- hysterectomy
- cholecystectomy
- C section x 3 
- urinary incontinence and recurrent UTI's

 
Social History:
___
Family History:
-mother:  no medical problems
-father:  "heart problems", DM

 
Physical Exam:
Vitals: P: 78 R: 16 BP: 158/76 SaO2: 98% on RA
General: Awake, cooperative, NAD.  
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx  
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity  

Pulmonary: Lungs CTA bilaterally without R/R/W  
Cardiac: RRR, nl. S1S2, no M/R/G noted  
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.  
Extremities: No edema
Skin: no rashes   

Neurologic:  
-Mental Status: Alert, oriented x 3. Able to relate history but
does not recall details of her course. Attentive, able to name
___ backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt. was able to name both high and low
frequency objects. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. The pt. had good knowledge of current events. There 
was
no evidence of apraxia or neglect.  

CN  
I: not tested  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally, fundi
normal (small vessels), no red desaturation
III,IV,V: EOMI, no ptosis. No nystagmus  
V: sensation intact V1-V3 to LT  
VII: slight L NLF flattening but symmetrical facial movements
including forehead wrinkling  
VIII: hears finger rub bilaterally but has decreased ability on
the R
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk, increased tone in ___ L>R; no asterixis or
myoclonus. No pronator drift.  
   Delt Bi  Tri  WE FE Grip IO  
   C5   C6  C7   C6 C7 C8/T1 T1  
L  5    5   5    ___     5  
R  5    5   5    ___     5  
  
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L  5  5     5    5 5    5    
R  5  5     5    5 5    5  

Reflex: No clonus, no crossed adductors
+ jaw jerk, mild L grasp, borderline glabellar

  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L 3-------------  0  Flexor  
R 3-------------  0  Flexor  

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Nl graphesisia and cortical mapping  

-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally.  

-Gait: Good initiation. wide based with R leg slightly 
externally
rotated, significantly decreased arm swing and en-block turn.
Unable to tandem and has bilateral ? hand posturing with stress
gait testing. Romberg borderline

 
Pertinent Results:
___ 11:45AM CEREBROSPINAL FLUID (CSF) WBC-0 RBC-79* Polys-2 
___ Monos-6 Atyps-1
___ 11:45AM CEREBROSPINAL FLUID (CSF) TotProt-59* 
Glucose-61
___ 11:45AM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-PND
___ 04:49PM   WBC-3.7* RBC-2.83* HGB-10.2* HCT-28.4* 
MCV-100* MCH-36.1* MCHC-36.0* RDW-13.0
___ 04:49PM   PLT COUNT-178
___ 04:49PM   SED RATE-38*

MRI/A Head: (___)
Post-surgical changes within the right frontal lobe from a prior 

biopsy are stable in appearance, with a small amount of 
surrounding gliosis. No intracranial hemorrhage, edema, mass, 
mass effect, shift of normally midline structures, or infarct is 
identified. Small focus of cystic encephalomalacia within right 
basal ganglia likely reflects an old lacunar infarct, and is 
stable. Scattered periventricular T2 and FLAIR 
hyperintensities are most compatible with chronic small vessel 
ischemic 
disease, and are stable. No new lesions are identified. 
  
There is marked cerebral and cerebellar volume loss, similar in 
extent from prior study. No diffusion-weighted abnormalities are 
identified. Following contrast administration, no abnormal 
enhancement is seen. 
  
Mildly dilated ventricles- lateral and third are noted; mildly 
increased since ___. NPH is in the Ddx given the aqueductal 
flow void sign though the aqueduct itself is not dilated. 
  
On the MRA, there is a possible contour outpouching at the left 
A1 segment, which may be artifactual or could reflect an 
adjacent venous structure. Otherwise, the intracranial vertebral 
and internal carotid arteries and their major branches are 
unremarkable, without evidence of stenosis, occlusion, or 
aneurysm. 

 
Brief Hospital Course:
___ year-old RH woman with a complex PMH of progressive 
difficulties with gait, dizziness, urinary incontinence and 
cognitive difficulties. She has had
extensive evaluations in the past with multiple MRI's, LP and 
brain biopsy concerning for a primary CNS vasculitis for which 
she was treated with Cytoxan for several years. Her symptoms 
remained quiescent while on this treatment. She discontinued 
this medication in the past for concern for leukopenia but then 
had
possible recurrence of symptoms. She then discontinued this 
medication again last year but developed recurrence of symptoms 
in ___. This episode was characterized by a 1 day history of L 
face and hand weakness (a symptom which she has had in the 
past). Nature of this previous episode is unclear, but is 
concerning for recrudescence of Susac's syndrome, which could 
potentially require initiation of immune suppressive therapies 
to prevent recurrent stroke. She was admitted for urgent 
evaluation including Lumbar puncture and MRI/A. CSF profile was 
with 0 WBC, Protein 59 and otherwise normal profile. MRI/A was 
without evidence for vasculitis. Though considered a 
conventional angiogram was not pursued given lack of 
inflammatory cells within the CSF. 

The patient was evaluated by ___ and recommended for continued 
outpatient ___. She was started on aggrenox BID for secondary 
stroke prevention. She will see her primary neurologist Dr. 
___ in ___ weeks for further care. She will require a 
hypercoagulability profile drawn during the follow up visit. 

 
Medications on Admission:
- baclofen 10 mg PO TID
- oxybutynin 10 mg PO Qday
- Fish Oil
- MVI
- Nitrofurantoin 50mg PO QDay

 
Discharge Medications:
1. Baclofen 10 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
2. Nitrofurantoin Macrocrystal 50 mg Capsule Sig: One (1) 
Capsule PO HS (at bedtime).  
3. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Oxybutynin Chloride 5 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
6. Aggrenox ___ mg Cap, Multiphasic Release 12 hr Sig: One 
(1) Cap, Multiphasic Release 12 hr PO twice a day: take one 
tablet each morning for three days, then take one tablet in the 
morning and one in the evening thereafter.
Disp:*60 Cap, Multiphasic Release 12 hr(s)* Refills:*2*
7. Outpatient Physical Therapy
Please evaluate and treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Susac's Syndrome
 
Discharge Condition:
Slowed gait with wide base, slight right pronator drift.

 
Discharge Instructions:
You were admitted to evaluate for possible recurrence of your 
vasculitis causing strokes. You underwent MRI which did not show 
any new strokes. You had a lumbar puncture for evaluation of 
inflammation around the brain- this was fortunately within the 
range of normal. 

You were started on a new drug to inhibit your platelets from 
forming clots called aggrenox.

Please see Dr. ___ in 6 weeks. Please have blood work drawn 
at his visit to screen for any predisposition you may have to 
forming blood clots that may have caused your prior strokes.
 
Followup Instructions:
___